US06184379B2
6-(2-Carboxy-3,4,5,6-tetrachlorobenzoyl)-1,2-dihydro-1-ethyl-7-hydroxy-2,2,4-trimethylquinoline
24 g (0.11 mol) N-ethyl-7-hydroxy-2,2,4-trimethyl-1,2-dihydroquinoline and 31.6 g (0.11 mol) tetrachloro-phthalic acid anhydride were dissolved in 200 ml 1,2-dichloroethane and refluxed for 3 h. After cooling, the solution was filtered and evaporated to dryness in a rotary evaporator. The residue was suspended in ca. 500 ml chloroform and heated to boiling. The solid (=product) was filtered. In order to increase the yield, the mother liquor was rotary evaporated to dryness and purified by column chromatography. For this ca. 100 g silica gel (ICN silica 32-63, 60A) was used as a separation material for ca. 3 g crude product. A mixture of chloroform +5% ethanol serve as a flow agent. The filtered solid was dissolved in ca. 1 l diethyl ether. After filtering the solvent was removed by distillation and the residue was dried to form a yellow solid.

reactant | N-ethyl-7-hydroxy-2,2,4-trimethyl-1,2-dihydroquinoline | 0.11 mol, 24 g | C(C)N1C(C=C(C2=CC=C(C=C12)O)C)(C)C | C14H19NO
reactant | tetrachloro-phthalic acid anhydride | 0.11 mol, 31.6 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 6-(2-Carboxy-3,4,5,6-tetrachlorobenzoyl)-1,2-dihydro-1-ethyl-7-hydroxy-2,2,4-trimethylquinoline | C(=O)(O)C1=C(C(=O)C=2C=C3C(=CC(N(C3=CC2O)CC)(C)C)C)C(=C(C(=C1Cl)Cl)Cl)Cl | C22H19Cl4NO4
